US07109354B2
b) 4-(5-Bromo-6-chloro-pyridine-3-sulfonyl)-5-nitro-thiophene-2-carboxylic acid methyl ester
4-Bromo-5-nitro-thiophene-2-carboxylic acid methyl ester (5.0 g, 19.9 mmol) was dissolved into DMF (20 mL) and cooled to 0° C. To this was added a solution of 5-bromo-6-chloro-pyridine-3-sulphenic acid (Example 118, step a) (1.8 g, 6.6 mmol) in DMF (20 mL) dropwise for 2 hours. The reaction was then warmed to RT and allowed to continue to stir for an additional 2 hours. The reaction was concentrated in vacuo and purified by SiO2 flash column chromatography (Biotage—40 M, 25% EtOAc in hexanes). The product was isolated as a white solid (2.5 g, 48%). ESI-MS (m/z): Calcd. for C11H6BrClN2O6S2: 440.8 (M+H); found: 441.0.

reactant | 4-Bromo-5-nitro-thiophene-2-carboxylic acid methyl ester | 19.9 mmol, 5.0 g | COC(=O)C=1SC(=C(C1)Br)[N+](=O)[O-] | C6H4BrNO4S
reactant | 5-bromo-6-chloro-pyridine-3-sulphenic acid | BrC=1C=C(C=NC1Cl)SO | C5H3BrClNOS
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(5-Bromo-6-chloro-pyridine-3-sulfonyl)-5-nitro-thiophene-2-carboxylic acid methyl ester | 2.5 g, 48% | COC(=O)C=1SC(=C(C1)S(=O)(=O)C=1C=NC(=C(C1)Br)Cl)[N+](=O)[O-] | C11H6BrClN2O6S2
